US04017533
A mixture of 16 g of diaminomaleonitrile and 12.6 g of acetyl cyanide was stirred with a glass rod whereby an exothermic reaction occurred and the resulting reaction mixture turned into a yellow-colored mixture. After allowing the mixture to stand for 10 minutes, the mixture was washed with small amount of cooled methanol and dried under reduced pressure to obtain 22.65 g (95.9% yield) of crude crystals of α-cynoethylidenediaminomaleonitrile which was found to have a purity sufficient to be used in subsequent reactions. For analysis, a sample of the above crystals was then repeatedly recrystallized from a mixture of methanol and water (3:2 by volume) to obtain α-cyanoethylidenediaminomaleonitrile having a melting point of 220°-221° C as milky white fine crystals.

reactant | diaminomaleonitrile | 16 g | N/C(=C(/C#N)\N)/C#N | C4H4N4
reactant | acetyl cyanide | 12.6 g | C(C)(=O)C#N | C3H3NO
product | α-cyanoethylidenediaminomaleonitrile | C(#N)C(C)=N/C(/C#N)=C(/C#N)\N | C7H5N5
